US07524951B2
Dimethylformamide (0.13 ml) and 0.15 ml of phosphorus oxychloride were added in that order to a solution of 300 mg of 2-bromoimidazo[5,1-b]thiazole in 3 ml of methylene chloride under an argon atmosphere, and the mixture was stirred at 80° C. for 6 hr. Water was added to the reaction mixture to stop the reaction, and the reaction mixture was adjusted to pH 10 by the addition of a 1 N aqueous sodium hydroxide solution. The reaction mixture was then extracted with ethyl acetate, and the organic layer was then washed with saturated brine and was dried over magnesium sulfate. The solvent was removed by evaporation, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:10) to give 223 mg of 2-bromo-7-formylimidazo[5,1-b]thiazole.

reactant | Dimethylformamide | 0.13 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-bromoimidazo[5,1-b]thiazole | 300 mg | BrC1=CN2C(S1)=CN=C2 | C5H3BrN2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 2-bromo-7-formylimidazo[5,1-b]thiazole | 223 mg | BrC1=CN2C(S1)=C(N=C2)C=O | C6H3BrN2OS
